US08003654B2
16) Synthesis of ethyl-(5-methyl-pyridin-3-ylmethyl)-amine
prepared by reaction of 5-methyl-pyridin-3-carbaldehyde (Kemnitzer W. et al J. Med. Chem. 2004, 47, 25, 6299-6310) with 2M ethylamine in THF.

reactant | 5-methyl-pyridin-3-carbaldehyde | CC=1C=C(C=NC1)C=O | C7H7NO
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(5-methyl-pyridin-3-ylmethyl)-amine | C(C)NCC=1C=NC=C(C1)C | C9H14N2
